US05972972
B. Preparation of 4-(4-fluorophenoxy)benzyl alcohol
Lithium aluminum hydride (0.25 g, 6.69 mmol) was slurried in 20 ml of dry diethyl ether and cooled in an ice bath. The ethyl 4-(4-fluorophenoxy)benzoate (2.32 g, 8.91 mmol) in 5 ml of dry diethyl ether was added dropwise and the reaction was stirred at room temperature overnight. More lithium aluminum hydride (0.25 g) was added and the reaction was stirred for four hours. The reaction was carefully quenched by sequential addition of 0.5 ml of water, 0.5 ml of 15% NaOH solution in water, and 1.5 ml of water. The resulting white precipitate was filtered using celite and washed with diethyl ether and discarded. The filtrate and washings were combined and concentrated to afford 1.92 g (99%) of the subtitle compound.

reactant | Lithium aluminum hydride | 6.69 mmol, 0.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(4-fluorophenoxy)benzoate | 8.91 mmol, 2.32 g | FC1=CC=C(OC2=CC=C(C(=O)OCC)C=C2)C=C1 | C15H13FO3
reactant | lithium aluminum hydride | 0.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 4-(4-fluorophenoxy)benzyl alcohol | 1.92 g, 99% | FC1=CC=C(OC2=CC=C(CO)C=C2)C=C1 | C13H11FO2
